US05314887
Part B: 2-[(4-Chlorobutyl)sulfonyl]benzaldehyde
2.8 g of 2-[(4-chlorobutyl)sulfonyl]benzyl alcohol was treated with 1.4 ml of oxalyl chloride, 2.4 ml of dimethylsulfoxide, and 7.8 ml of triethylamine in the same manner as described for Example 1, Part B. Purification of the crude product via column chromatography on silica gel, eluting with 60:10:30 toluene:ethyl acetate:hexane provided 2.45 g of the product. 1H-NMR (CDCl3) δ 1.91-1.97(m,4H); 3.35(t,2H,J=7 Hz); 3.54(t,2H,J=6 Hz); 7.80-7.85(m,2H); 8.07-8.14(m,2H); 10.75(s,1H). Mass spectrum: 261 (M+H).

reactant | 2-[(4-chlorobutyl)sulfonyl]benzyl alcohol | 2.8 g | ClCCCCS(=O)(=O)C1=C(CO)C=CC=C1 | C11H15ClO3S
reactant | oxalyl chloride | 1.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 2.4 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 7.8 ml | C(C)N(CC)CC | C6H15N
product | 2-[(4-Chlorobutyl)sulfonyl]benzaldehyde | 2.45 g | ClCCCCS(=O)(=O)C1=C(C=O)C=CC=C1 | C11H13ClO3S
